US04882348
1-(3,5-Difluorobenzyl)-2-mercaptoimidazole (2.26 g, 0.010) and potassium hydroxide (0.056 g, 0.01 mole) are dissolved in dimethylformamide (10 ml) containing water (0.5 ml) with stirring under argon at ambient temperature. To this solution is added dropwise 2-dimethylaminoethyl chloride (1.08 g, 0.010 mole) in toluene (10 ml). [This solution is prepared by stirring 1.44 g of dimethylaminoethyl chloride hydrochloride with an excess of sodium hydroxide pellets in the presence of toluene (10 ml) and a few drops of water, followed by filtering the solution of neutralized base.] The reaction mixture is warmed to 95° C., stirred at this temperature for one hour, cooled and then diluted with water. The layers are shaken together and separated and then the aqueous phase is extracted twice with ether. The toluene and ether extracts are combined and the solvents are removed in vacuo. The residual oil is dissolved in ether and hydrogen chloride in ether is added slowly with stirrinq until a slight excess is present. The precipitated white crystalline solid is filtered and recrystallized from ethanol ether to give 2-(2-dimethylaminoethylthio)-1-(3,5-difluorobenzyl)imidazole dihydrochloride.

reactant | 1-(3,5-Difluorobenzyl)-2-mercaptoimidazole | 2.26 g | FC=1C=C(CN2C(=NC=C2)S)C=C(C1)F | C10H8F2N2S
reactant | potassium hydroxide | 0.01 mole, 0.056 g | [OH-].[K+]
reactant | 2-dimethylaminoethyl chloride | 0.010 mole, 1.08 g | CN(CCCl)C | C4H10ClN
reactant | dimethylaminoethyl chloride hydrochloride | 1.44 g | Cl.CN(C)CCCl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | water | a few drops | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.5 ml | O | H2O
product | 2-(2-dimethylaminoethylthio)-1-(3,5-difluorobenzyl)imidazole dihydrochloride | Cl.Cl.CN(CCSC=1N(C=CN1)CC1=CC(=CC(=C1)F)F)C | InChI=1S/C14H17F2N3S.2ClH/c1-18(2)5-6-20-14-17-3-4-19(14)10-11-7-12(15)9-13(16)8-11;;/h3-4,7-9H,5-6,10H2,1-2H3;2*1H
